US05610177
a) Dimethyl bis-(3,4-methylenedioxyphenylmethyl)-malonate
A suspension of 6.6 g (0.165 mol) of NaH.oil (60%) in 200 mL THF was cooled in ice and treated dropwise with 10 g (0.075 mol) of dimethyl malonate. After stirring for 0.5 hour, the solution was treated with a solution of 27.3 g (0.16 mol) of 3,4-methylenedioxybenzyl chloride (50% in CH2Cl2). After stirring at room temperature overnight, the solution was heated at reflux overnight. The mixture was filtered and the solvent removed under reduced pressure. The residue was taken up in EtOAc and washed with 1N HCl, then saturated NaCl. Drying over MgSO4 and removal of the solvent under reduced pressure gave the crude product. Recrystallization from EtOAc/hexane gave 20.58 g (68.6% yield) of the product as a solid. The structure was confirmed by NMR spectroscopy.

reactant | NaH | 0.165 mol, 6.6 g | [H-].[Na+]
reactant | dimethyl malonate | 0.075 mol, 10 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | 3,4-methylenedioxybenzyl chloride | 0.16 mol, 27.3 g | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Dimethyl bis-(3,4-methylenedioxyphenylmethyl)-malonate | 20.58 g, 68.6% yield | C1OC=2C=C(C=CC2O1)CC(C(=O)OC)(C(=O)OC)CC1=CC2=C(C=C1)OCO2 | C21H20O8
